* This netlist of version 1.0
V1 1 0 PULSE(0.0 300.0 0.0m 1000.0n 20n 0.05m 0.1m) AC 1 DC 0

* The parameters of the cable
Rcm1 1 0 100000000.0
Ccm1 1 0 7.5e-11
Lc1 1 2 3.1e-07
Rpc1 1 2 100MEG
Rc1 2 3 0.02

*Paramaters of the turns
Ls1 3 4 4.906326532524108e-08
Rp1 3 4 1000000.0
Cp1 3 4 0
Rs1 4 5 2.859519199395699e-05
Cm1 3 0 5.805816260050833e-12
Rm1 3 0 800000.0
Ct12 3 5 3.206296180489786e-12
Rt12 3 5 40000.0
K12 Ls1 Ls2 0.8484391846369341
Ct13 3 7 2.979495316748722e-16
Rt13 3 7 40000.0
K13 Ls1 Ls3 0.7076408812004803
Ct14 3 9 1.538347695946341e-15
Rt14 3 9 40000.0
K14 Ls1 Ls4 0.7545328891046608
Ct15 3 11 3.822816427042391e-12
Rt15 3 11 40000.0
K15 Ls1 Ls5 0.8556014679289465
Ct16 3 13 1.384846381535621e-13
Rt16 3 13 40000.0
K16 Ls1 Ls6 0.7492709086316248
Ls2 5 6 4.94190274525046e-08
Rp2 5 6 1000000.0
Cp2 5 6 0
Rs2 6 7 2.85944275873142e-05
Cm2 5 0 5.518923503812405e-12
Rm2 5 0 800000.0
Ct23 5 7 3.20709040556926e-12
Rt23 5 7 40000.0
K23 Ls2 Ls3 0.8484510149552072
Ct24 5 9 3.565345905176674e-12
Rt24 5 9 40000.0
K24 Ls2 Ls4 0.85621848246914
Ct25 5 11 3.565275495354244e-12
Rt25 5 11 40000.0
K25 Ls2 Ls5 0.8562206907369625
Ct26 5 13 2.612736333319973e-25
Rt26 5 13 40000.0
K26 Ls2 Ls6 0.7205679340585065
Ls3 7 8 4.906017477411926e-08
Rp3 7 8 1000000.0
Cp3 7 8 0
Rs3 8 9 2.859541202473094e-05
Cm3 7 0 5.827559768523418e-12
Rm3 7 0 800000.0
Ct34 7 9 3.897890821875772e-12
Rt34 7 9 40000.0
K34 Ls3 Ls4 0.8556414581395219
Ct35 7 11 2.398021279453426e-15
Rt35 7 11 40000.0
K35 Ls3 Ls5 0.7545497040967798
Ct36 7 13 1.710425530507882e-14
Rt36 7 13 40000.0
K36 Ls3 Ls6 0.6568337577512381
Ls4 9 10 4.573515297537356e-08
Rp4 9 10 1000000.0
Cp4 9 10 0
Rs4 10 11 3.653818425405176e-05
Cm4 9 0 1.164764623888192e-13
Rm4 9 0 800000.0
Ct45 9 11 4.304242781291932e-12
Rt45 9 11 40000.0
K45 Ls4 Ls5 0.8461184785817225
Ct46 9 13 2.209755867428686e-13
Rt46 9 13 40000.0
K46 Ls4 Ls6 0.7353432051205057
Ls5 11 12 4.574178803907126e-08
Rp5 11 12 1000000.0
Cp5 11 12 0
Rs5 12 13 3.653783353669377e-05
Cm5 11 0 2.640299481527644e-14
Rm5 11 0 800000.0
Ct56 11 13 5.06148497782423e-12
Rt56 11 13 40000.0
K56 Ls5 Ls6 0.8331495812784343
Ls6 13 14 4.539245080390118e-08
Rp6 13 14 1000000.0
Cp6 13 14 0
Rs6 14 0 4.446858747678954e-05
Cm6 13 0 2.50336357093517e-13
Rm6 13 0 800000.0

.ac dec 10000.0 0.001 1000MEG

.control
run
write C:\Users\lsee\Desktop\Mustapha\Results_version1_noyau=1\LTspice_files\6TurnsMachine_ac.raw all
meas ac i(v1)
.endc
.end